US07109219B2
Phenyl N-cyclopentylcarbamate
Cyclopentylamine (9.9 ml, 100 mmol) was dissolved in tetrahydrofuran (400 ml); pyridine (8.9 ml, 110 mmol) was added thereto; and the reaction mixture was stirred. The reaction mixture was cooled with ice; phenyl chloroformate (13.8 ml, 110 mmol) was added dropwise for 5 minutes while stirring; and the reaction mixture was stirred at room temperature for 24.5 hours. The reaction mixture was partitioned between ethyl acetate and water; and the organic layer was washed with brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained crystals were suspended in a solvent mixture of hexane:ethyl acetate=5:1, filtered off, washed with hexane, and dried under aeration to yield the title compound as colorless crystals (16.6 g, 81 mmol, 81%).

reactant | Cyclopentylamine | 100 mmol, 9.9 ml | C1(CCCC1)N | C5H11N
reactant | pyridine | 110 mmol, 8.9 ml | N1=CC=CC=C1 | C5H5N
reactant | phenyl chloroformate | 110 mmol, 13.8 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | Phenyl N-cyclopentylcarbamate | 81 mmol, 16.6 g, 81% | C1(CCCC1)NC(OC1=CC=CC=C1)=O | C12H15NO2
